US06787653B2
Under nitrogen, 10 mL (159 mmol) of a 1.59 mol/L hexane solution of n-butyl lithium and a solution of 23.0 g (71.4 mmol) of 1-iodo-4-isopropoxy-3,5-dimethoxybenzene in anhydrous tetrahydrofuran (100 ml) were added dropwise to anhydrous tetrahydrofuran cooled in a dry ice-methanol bath, and the mixture was stirred for 30 minutes. After addition of 20 mL (87 mmol) of triisopropyl borate, the reaction mixture was stirred for 15 minutes and the dry ice-methanol bath was removed. With stirring, the reaction mixture was allowed to warm to room temperature over about 1.5 hours. After addition of water (4 mL, 200 mmol), the mixture was concentrated under reduced pressure and the residue was dissolved in a 1 mol/L aqueous sodium hydroxide solution (200 mL). After washing with heptane (20 mL) and chloroform (3×15 mL), the resulting solution was stirred in an ice bath, followed by dropwise addition of 35 mL (420 mmol) of concentrated hydrochloric acid. The mixture was stirred with ice cooling for 2.5 hours. The precipitates were collected by filtration, washed with 0.1 mol/L hydrochloric acid and water and air-dried overnight, whereby 16 g of crude crystals were obtained. A solution of crude crystals in tetrahydrofuran (50 mL) was dried over magnesium sulfate and then concentrated under reduced pressure to about 25 mL. The residue heated to about 80° C. was stirred, and heptane (15 mL) was added. After stirring at room temperature and then, in an ice bath, precipitates were collected by filtration and washed with tetrahydrofuran-heptane (1:10:3×7.5 mL), whereby 12.75 g of 4-isopropoxy-3,5-dimethoxyphenylboronic acid was obtained as a colorless crystalline powder (mp: 211.5° C. (decomposed), yield: 71%).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1-iodo-4-isopropoxy-3,5-dimethoxybenzene | 71.4 mmol, 23.0 g | IC1=CC(=C(C(=C1)OC)OC(C)C)OC | C11H15IO3
reactant | triisopropyl borate | 87 mmol, 20 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | water | 200 mmol, 4 mL | O | H2O
reactant | hydrochloric acid | 420 mmol, 35 mL | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.59 mol/L | CCCCCC | C6H14
product | 4-isopropoxy-3,5-dimethoxyphenylboronic acid | 12.75 g | C(C)(C)OC1=C(C=C(C=C1OC)B(O)O)OC | C11H17BO5
